US07449515B2
Synthesis of Bis[4-(vinyloxy)butyl] trimethyl-1,6-hexanediylbiscarbamate (Mixture of 2,2,4- and 2,4,4-isomers)
To a 2 liter three neck flask equipped with a stopper, dropping funnel, stir bar, and reflux condenser was added trimethyl-1,6-diisocyanatohexane (mixture of 2,2,4- and 2,4,4-isomers, 118.7 grams, 0.57 mol, obtained from Sigma-Aldrich, Milwaukee, Wis.), dibutyltin dilaurate (3.56 grams, 5.6 mmol, obtained from Sigma-Aldrich) and anhydrous tetrahydrofuran (1 liter). 1,4-Butanediol vinyl ether (133.2 grams, 1.2 mol, obtained from Sigma-Aldrich) was added slowly dropwise to the stirring solution via the addition funnel. The reaction mixture was brought to reflux and was kept at this temperature until deemed complete by infrared spectroscopy (about 5 hours, confirmed by the disappearance of the isocyanate peak at 2200 cm−1). When the reaction was complete, methanol (500 milliliters) was added to quench any residual isocyanate and the solution was stirred for 0.5 hour. The solvent was stripped in vacuo and the residual oil was triturated with hexane (3×500 milliliters), dissolved in methylene chloride (1 liter), washed with water (1×750 milliliters), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 221 grams of a pale yellow oil (89 percent yield). The product was believed to be a mixture of compounds of the formulae

reactant | trimethyl-1,6-diisocyanatohexane | 0.57 mol, 118.7 grams | CC(C(N=C=O)(C)C)CCCCN=C=O | C11H18N2O2
reactant | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
reactant | 1,4-Butanediol vinyl ether | 1.2 mol, 133.2 grams | C(=C)OCCCCO | C6H12O2
reactant | isocyanate | [N-]=C=O
reactant | methanol | 500 milliliters | CO | CH4O
catalyst | dibutyltin dilaurate | 5.6 mmol, 3.56 grams | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | Bis[4-(vinyloxy)butyl] trimethyl-1,6-hexanediylbiscarbamate | 221 grams, 89 percent yield | CC(C(NC(OCCCCOC=C)=O)(C)C)CCCCNC(OCCCCOC=C)=O | C23H42N2O6
